US07015328B2
3-Cyano-7-methoxy-4-(3-bromo-4,5-dimethoxyphenyl)-2-oxo-2H-chromene
To a solution of 5-bromoveratraldehyde (1.0 g, 4.1 mmol) and ethyl cyanoacetate (0.45 mL, 4.1 mmol) in ethanol (4 mL) was added piperidine (0.4 mL, 4.1 mmol). The mixture was stirred at room temperature for 0.5 h and precipitate was collected by filtration to yield the product (1.16 g) 3-(3-bromo-4,5-dimethoxy-phenyl)-2-cyano-acrylic acid ethyl ester as a solid. To a solution of 3-methoxyphenol (0.11 mL, 1 mmol) in toluene (10 mL) was added sodium hydride (60 mg, 1.5 mmol, 60%) and the mixture was stirred at room temperature for 0.5 h. To the mixture was added 3-(3-bromo-4,5-dimethoxy-phenyl)-2-cyano-acrylic acid ethyl ester (340 mg, 1 mmol) as a solid, then the mixture was refluxed for 2 h. The solvent was evaporated and the residue was purified by chromatography on silica gel with ethyl acetate and hexane (1:2) as eluant, yielding 7 mg (1.7%) of the title compound. 1H NMR (CDCl3): 7.34 (d, J=9.6, 1H), 7.21 (d, J=1.8, 1H), 6.98 (d, J=1.8, 1H), 6.91-6.90 (m, 2H), 3.98 (s, 3H), 3.94 (s, 3H), 3.93 (s, 3H).

reactant | 3-methoxyphenol | 1 mmol, 0.11 mL | COC=1C=C(C=CC1)O | C7H8O2
reactant | sodium hydride | 1.5 mmol, 60 mg | [H-].[Na+]
reactant | 3-(3-bromo-4,5-dimethoxy-phenyl)-2-cyano-acrylic acid ethyl ester | 1 mmol, 340 mg | C(C)OC(C(=CC1=CC(=C(C(=C1)OC)OC)Br)C#N)=O | C14H14BrNO4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Cyano-7-methoxy-4-(3-bromo-4,5-dimethoxyphenyl)-2-oxo-2H-chromene | 7 mg, 1.7% | C(#N)C=1C(OC2=CC(=CC=C2C1C1=CC(=C(C(=C1)OC)OC)Br)OC)=O | C19H14BrNO5
